US05612363
To sodium hydride (2.4 g, 60 mmol) in dimethylformamide (50 mL) at 0° C. was added imidazolin-2-one (2.6 g, 30 mmol). After stirring for 20 minutes 4-(bromomethyl)benzonitrile (13 g, 66 mmol) was added and the mixture was warmed to ambient temperature. After stirring for 1 hour the reaction was poured into water and a solid formed. The solid was filtered to give 4,4'-[(2-oxoimidazolin-1,3-diyl)bis(methylene)]-bis(benzonitrile). NMR (CDCl3) 7.65 (d,4), 7.4 (d,4), 4.45 (s,4), 3.2 (s,4) ppm.

reactant | sodium hydride | 60 mmol, 2.4 g | [H-].[Na+]
reactant | imidazolin-2-one | 30 mmol, 2.6 g | N1C(NCC1)=O | C3H6N2O
reactant | 4-(bromomethyl)benzonitrile | 66 mmol, 13 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | water | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4,4'-[(2-oxoimidazolin-1,3-diyl)bis(methylene)]-bis(benzonitrile) | O=C1N(CCN1CC1=CC=C(C#N)C=C1)CC1=CC=C(C#N)C=C1 | C19H16N4O
